Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Vicodin / Plavix
 
Attending: ___
 
Chief Complaint:
Right arm weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a past medical 
history
significant for COPD, coronary artery disease, possible atrial
fibrillation according to his daughter, hyperlipidemia who
presents after he had an episode of right hand and arm weakness
today at 5 ___ while he was playing his guitar followed by facial
droop and difficulty speaking.

Briefly the story starts about 12 days ago, patient returned 
from
a trip to ___ where he was living for 8 months.  Weight
before leaving ___, the patient had a mechanical fall
from a ladder and he fell about ___ feet and landed on his rib
causing a fracture.  Last ___, patient noticed shortness of
breath, diaphoresis and presyncopal symptoms.  His blood 
pressure
at this time was 160s over 110s.  The patient took nitroglycerin
×2 which relieved his symptoms.  On ___, the patient noted
that his COPD was worsening as he had more difficulty breathing. 

The patient took his rescue inhaler to good effect.  On ___
and ___, the patient felt quite lethargic and unwell but did
not have any specific symptoms other than exhaustion.  Finally
yesterday the patient started to feel better and was up and 
about
doing his normal activities.  At approximately 5:30 ___ the
patient was on his bed playing the guitar when he noticed that
his right hand started to feel numb and as if he could not move
it well.  He called his wife into the room who saw a facial 
droop
on the right side.  At this time, the patient felt generalized
weakness and stated that he could not get up.  Patient's wife
called his daughters who came into the room and noted that his
speech was dysarthric.  They called ___ immediately.  

At outside hospital he was evaluated, but given his nonfocal and
fluctuating exam TPA was withheld.  Stroke scale at that time 
was
minimal for about a 1 with facial droop which resolved during
their initial workup.  Patient underwent a CT head, CTA head and
neck and MRI brain.  Of note, MRI brain showed scattered 
infarcts
on the left side.  Patient states he has never had a stroke
before, nor any TIAs.  He does have a cardiologist who he seems
regularly.  Patient's daughter endorses that she thinks he has
had atrial fibrillation on and off over the past few years.  She
states that he may have had an ablation for this atrial
fibrillation but his history is unclear.

Patient and his family denies him ever being on anticoagulation.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Patient states he feels
weaker on his right side no bowel or bladder incontinence or
retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1.  Hypertension
2.  COPD
3.  Coronary artery disease
4.  Possible atrial fibrillation, history unclear
5.  Recent rib fracture
6.  Daughters revealed that patient had emotional seizures at 
the
age of ___, he states he underwent extensive workup and were told
that his seizures were nonneurologic
 
Social History:
___
Family History:
 No family history significant for strokes.
 
Physical Exam:
Physical Exam:
Vitals: Temperature 98.9, heart rate 66, blood pressure 126/61,
99% on room air
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch, however he states a
25% decrease in the V2 distribution of the right face to light
touch and temperature.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  4+   5   4+  ___  5  4+   5    4+  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was flexor on the left, upgoing on the right
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM
Vitals: Temperature 98.0 , heart rate 74-85, blood pressure 
102-164/53-68,
95-97% RR16-18
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5       
R  5    ___   ___  5   5    5  5     5     

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. RAM intact. finger 
tapping ok.

-Gait: Deferred
 
Pertinent Results:
___ 05:25AM BLOOD WBC-6.2 RBC-4.89 Hgb-14.3 Hct-43.2 MCV-88 
MCH-29.2 MCHC-33.1 RDW-14.0 RDWSD-45.5 Plt ___
___ 05:25AM BLOOD ___ PTT-29.8 ___
___ 05:03AM BLOOD Glucose-93 UreaN-16 Creat-0.7 Na-141 
K-5.2* Cl-103 HCO3-27 AnGap-11
___ 05:03AM BLOOD ALT-40 AST-26 AlkPhos-71 TotBili-0.5
___ 05:03AM BLOOD Albumin-4.1 Calcium-8.9 Phos-3.2 Mg-2.0 
Cholest-127
___ 05:03AM BLOOD Triglyc-78 HDL-47 CHOL/HD-2.7 LDLcalc-64
___ 06:02AM BLOOD %HbA1c-5.8 eAG-120
___ 05:03AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:03AM BLOOD TSH-4.0

IMAGING
No imaging performed here.
MRI as OSH showed ___ small acute infarcts in the L frontal lobe
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a significant cardiac
history, hypertension, on aspirin daily who presents after he 
had
a strange episode of right hand weakness, facial droop, and
difficulty speaking which improved significantly by the time
patient went to an outside hospital and was basically resolved 
at time of discharge. Patient was transferred to ___ 
___ after he was found to have multiple 
small acute infarcts on MRI brain. He was seen to be in Afib on 
EKG and telemetry while admitted. The multiple areas of infarct 
along with his afib make cardioembolic the most likely etiology 
of his stroke. As such, he was started on xarelto.  LDL 64, TSH 
4.0, A1C 5.8%. ___ saw patient and he had no ___ needs. Patient 
was continued on his aspirin after ___ was started given his 
cardiac history. Attempted to contact his cardiologist however 
they were not available at time of discharge. We recommended 
that patient continue on aspirin as well as Xarelto for the 
interim, given that he may need aspirin for his coronary artery 
disease. Discussed increased risk of bleeding and precautions 
with patient and family, they stated understanding of this. 
Recommended that he follow-up with his cardiologist and reassess 
the need for aspirin as an outpatient.

Other issues:
#hyperkalemia - His potassium was 5.5 and lisinopril was held 
Kayexalate given.  Recommended that patient hold lisinopril 
until seen PCP, at which point they can reassess whether to 
restart. 

Transitional issues:
Was started on xarelto for afib.
Follow up with cardiology to see whether aspirin needs to be 
continued or not. 
Lisinopril was held because of hyperkalemia, recommended patient 
hold lisinopril until seeing PCP.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed â€“ () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 64) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 100 mg PO Q24H 
2. Lisinopril 20 mg PO DAILY 
3. Sotalol 80 mg PO BID 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
5. Ezetimibe 10 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Rosuvastatin Calcium 40 mg PO QPM 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth at dinner 
Disp #*30 Tablet Refills:*1 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
3.  Aspirin 81 mg PO DAILY  
4.  Ezetimibe 10 mg PO DAILY  
5.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
6.  Rosuvastatin Calcium 40 mg PO QPM  
7.  Sotalol 80 mg PO BID  
8.  Verapamil SR 100 mg PO Q24H  
9. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until your primary care doctor says it is 
ok, your potassium was high, which is why we held this 
medication.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro exam: nonfocal

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of hand weakness resulting 
from an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
atrial fibrillation
We are changing your medications as follows:
continue aspirin
Start taking Xarelto (rivaroxaban) 20 mg with dinner, this is a 
blood thinner we started because of your atrial fibrillation 
(abnormal heart rhythm that makes clots more likely to form that 
can travel to the brain and cause strokes).
Taking both aspirin and xarelto can increase the chance of 
bleeding. Given your previous heart problems, we recommend 
continuing aspirin for now until you see your cardiologist. You 
should ask your cardiologist whether or not you still need to be 
on aspirin.
We held your lisinopril because your potassium was high, which 
can be a side effect of this medication. Speak to your primary 
care doctor before starting this.
Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___